US04544654
N-[2-(Diethylamino)ethyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride
To 100 ml of anhydrous tetrahydrofuran is added 10 g (0.0429 mole) of 4-[(methylsulfonyl)amino]benzoyl chloride and the reaction is cooled in an ice bath. A solution of 5.0 g (0.043 mole) of N,N-diethylethylenediamine in 25 ml of tetrahydrofuran is added over 15 minutes. The solvent is decanted and the precipitate is triturated with 100 ml of ether and crystallized from 100 ml of acetone with three drops of methanol. After cooling, the resultant solid is washed with acetone and dried in vacuo to provide the title compound.

reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | 0.0429 mole, 10 g | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
reactant | N,N-diethylethylenediamine | 0.043 mole, 5.0 g | C(C)N(CCN)CC | C6H16N2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-[2-(Diethylamino)ethyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride | Cl.C(C)N(CCNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O)CC | InChI=1S/C14H23N3O3S.ClH/c1-4-17(5-2)11-10-15-14(18)12-6-8-13(9-7-12)16-21(3,19)20;/h6-9,16H,4-5,10-11H2,1-3H3,(H,15,18);1H
